US08541417B2
To a suspension of 3-(hydroxymethyl)pyrido[2,3-e]pyrrolo[1,2-c]pyrimidin-6(5H)-one (50.00 mg, 0.232 mmol), N-ethyl-4-(piperazin-1-yl)benzamide (67.8 mg, 0.290 mmol) and (cyanomethyl)trimethylphosphonium iodide (90 mg, 0.372 mmol) in propiononitrile (Volume: 1.0 mL) was added N-ethyl-N-isopropylpropan-2-amine (0.202 mL, 1.162 mmol) at 23° C. The reaction was stirred at 95° C. for 3 hr. The suspension was cooled to 23° C., filtered, rinsed with ACN (3×2 mL) and dried in vacuo to provide N-ethyl-4-(4-((6-oxo-5,6-dihydropyrido[2,3-e]pyrrolo[1,2-c]pyrimidin-3-yl)methyl)piperazin-1-yl)benzamide (0.0595 g, 0.138 mmol, 59.5% yield) as an off-white solid. 1H NMR (400 MHz, DMSO-d6) δ ppm 1.09 (t, J=7.20 Hz, 3 H) 2.51-2.60 (m, 4 H) 3.18-3.31 (m, 6 H) 3.62 (s, 2 H) 6.71-6.77 (m, 1 H) 6.94 (m, J=9.09 Hz, 2H) 7.08 (dd, J=3.54, 1.52 Hz, 1 H) 7.58 (d, J=1.77 Hz, 1 H) 7.68 (dd, J=3.03, 1.52 Hz, 1 H) 7.71 (m, J=8.84 Hz, 2 H) 8.17 (t, J=5.56 Hz, 1 H) 8.36 (d, J=1.77 Hz, 1 H) 11.62 (br. s., 1H). ESI-MS: m/z 431.4 (M+H)+. mp=251.7-259.6° C.

reactant | 3-(hydroxymethyl)pyrido[2,3-e]pyrrolo[1,2-c]pyrimidin-6(5H)-one | 0.232 mmol, 50.00 mg | OCC1=CC2=C(C=3N(C(N2)=O)C=CC3)N=C1 | C11H9N3O2
reactant | N-ethyl-4-(piperazin-1-yl)benzamide | 0.290 mmol, 67.8 mg | C(C)NC(C1=CC=C(C=C1)N1CCNCC1)=O | C13H19N3O
reactant | (cyanomethyl)trimethylphosphonium iodide | 0.372 mmol, 90 mg | [I-].C(#N)C[P+](C)(C)C
reactant | N-ethyl-N-isopropylpropan-2-amine | 1.162 mmol, 0.202 mL | C(C)N(C(C)C)C(C)C | C8H19N
solvent | propiononitrile | 1.0 mL | C(CC)#N | C3H5N
product | N-ethyl-4-(4-((6-oxo-5,6-dihydropyrido[2,3-e]pyrrolo[1,2-c]pyrimidin-3-yl)methyl)piperazin-1-yl)benzamide | 0.138 mmol, 0.0595 g, 59.5% yield | C(C)NC(C1=CC=C(C=C1)N1CCN(CC1)CC1=CC2=C(C=3N(C(N2)=O)C=CC3)N=C1)=O | C24H26N6O2
